US06559145B2
N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-1H-thieno[2,3-e][1,3,4]-thiadiazine-3-carboxamide 4,4-Dioxide [BD.3, X=Chloro, Z=CH2OH].
A solution containing the 6-bromo-N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e]-[1,3,4]thiadiazine-3-carboxamide 4,4-dioxide (Preparation 57, 0.19 g), DMF (6 mL), and triethylamine (0.8 mL) is degassed by evacuation under house vacuum and filling with nitrogen 3 times. To this solution is added propargyl alcohol (24 μL), palladium(II)chloride bistriphenylphosphine (8 mg), and copper(I)iodide (14 mg). The mixture is warmed to 65° C. After cooling, the reaction mixture is concentrated under a stream of nitrogen and the resulting residue is partitioned between CH2Cl2 and water. The organic layer is washed with brine, dried over Na2SO4, filtered, and concentrated to give a brown oil. The crude product is chromatographed on a Biotage column eluting with 60% ethyl acetate in heptane (200 mL), 80% ethyl acetate in heptane (200 mL), and ethyl acetate (500 mL) followed by purification by radial chromatography eluting with CH2Cl2 to give 40 mg (25%) of the title compound as a pale yellow solid. Physical characteristics: M.p. 98° C. (dec); MS (ESI+) m/z 446 (M+Na)+; HRMS (FAB) m/z 424.0191 (C17H14ClN3O4S2+H).

reactant | 6-bromo-N-(4-chlorobenzyl)-1-methyl-1H-thieno[2,3-e]-[1,3,4]thiadiazine-3-carboxamide 4,4-dioxide | 0.19 g | BrC1=CC2=C(N(N=C(S2(=O)=O)C(=O)NCC2=CC=C(C=C2)Cl)C)S1 | C14H11BrClN3O3S2
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
product | N-(4-Chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1-methyl-1H-thieno[2,3-e][1,3,4]-thiadiazine-3-carboxamide 4,4-Dioxide | 40 mg, 25% | ClC1=CC=C(CNC(=O)C=2S(C3=C(N(N2)C)SC(=C3)C#CCO)(=O)=O)C=C1 | C17H14ClN3O4S2
